* OP tb, Iload=0A
.lib "sky130_fast.lib.spice" tt
.temp 27.0
.param mc_mm_switch=0
.subckt unity_buffer VDD VSS VREF VOUT IBIAS
* ---- bias mirror (NMOS): reference, tail source, output preload ----
XMB0 IBIAS IBIAS VSS VSS sky130_fd_pr__nfet_01v8 L=0.5 W=10.0 nf=1 m=2
XMB1 TAIL IBIAS VSS VSS sky130_fd_pr__nfet_01v8 L=0.5 W=10.0 nf=1 m=4
XMBPRE VOUT IBIAS VSS VSS sky130_fd_pr__nfet_01v8 L=0.5 W=10.0 nf=1 m=20
* ---- NMOS input pair (M1.g=VOUT feedback, M2.g=VREF) ----
XM1 NA VOUT TAIL VSS sky130_fd_pr__nfet_01v8 L=0.5 W=10.0 nf=1 m=4
XM2 OTA VREF TAIL VSS sky130_fd_pr__nfet_01v8 L=0.5 W=10.0 nf=1 m=4
* ---- PMOS current-mirror load ----
XM3 NA NA VDD VDD sky130_fd_pr__pfet_01v8 L=1.0 W=7.0 nf=1 m=32
XM4 OTA NA VDD VDD sky130_fd_pr__pfet_01v8 L=1.0 W=7.0 nf=1 m=32
* ---- PMOS pass device ----
XMP VOUT OTA VDD VDD sky130_fd_pr__pfet_01v8 L=0.25 W=5.0 nf=4 m=65
.ends unity_buffer
VDD VDD 0 1.2
VREF VREF 0 0.8
IREF VDD IBIAS 1e-05
XBUF VDD 0 VREF VOUT IBIAS unity_buffer
COUT VOUT 0 1e-06
ILOAD VOUT 0 0
.nodeset v(VOUT)=0.8 v(XBUF.OTA)=0.5 v(XBUF.NA)=0.25 v(XBUF.TAIL)=0.18
.control
op
wrdata op_vout.txt v(VOUT) v(XBUF.OTA) v(XBUF.NA) v(XBUF.TAIL)
.endc
.end
